US07476399B2
N-(2,3-Dimethoxybenzyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide
Prepared in a similar manner to example 125 using 2,3-dimethoxybenzylamine, ethyl oxalyl chloride, and 2-(pyridin-2-yl)ethylamine; m/e=343 [M+1].

reactant | 2,3-dimethoxybenzylamine | COC1=C(CN)C=CC=C1OC | C9H13NO2
reactant | 2-(pyridin-2-yl)ethylamine | N1=C(C=CC=C1)CCN | C7H10N2
product | N-(2,3-Dimethoxybenzyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide | COC1=C(CNC(C(=O)NCCC2=NC=CC=C2)=O)C=CC=C1OC | C18H21N3O4
